US07566699B2
To a mixture of 3-(2-{4-[1-amino-1-(benzyloxycarbonylimino)methyl]phenyl}ethyl)-4-hydroxybenzofuran (30 mg) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (43 mg) in dichloromethane (3 mL) was added boron trifluoride-diethyl ether complex (0.009 mL), and the mixture was stirred at room temperature for 3 days. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1-2/3) to give 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-(2-{4-[1-amino-1-(benzyloxycarbonylimino)methyl]phenyl}ethyl)benzofuran (42 mg). This material was dissolved in methanol (3 mL). To the solution was added sodium methoxide (28% methanol solution, 0.02 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethylacetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 3-(2-{4-[1-amino-1-(benzyloxycarbonylimino)methyl]phenyl}ethyl)-4-(β-D-glucopyranosyloxy)benzofuran (20 mg). This material was dissolved in methanol (3 mL). To the solution was added 10% palladium-carbon powder (10 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration. The solvent of the filtrate was removed under reduced pressure to give the title compound (13 mg).

reactant | 3-(2-{4-[1-amino-1-(benzyloxycarbonylimino)methyl]phenyl}ethyl)-4-hydroxybenzofuran | 30 mg | NC(=NC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C25H22N2O4
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 43 mg | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-(2-{4-[1-amino-1-(benzyloxycarbonylimino)methyl]phenyl}ethyl)benzofuran | 42 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)C(=NC(=O)OCC2=CC=CC=C2)N | C39H40N2O13
